US07622492B2
2,4-Difluorophenylhydrazine hydrochloride (Apollo; 6.00 g, 32.3 mmol) was partitioned between saturated aqueous sodium carbonate (100 mL) and ethyl acetate (150 mL). The organic layer was washed with saturated aqueous sodium carbonate (50 mL) and brine (100 mL, then 50 mL), dried (sodium sulfate), filtered, and evaporated to give 2,4-difluorophenylhydrazine (4.54 g, 98%) as a light brown solid. This was taken in dry toluene (50 mL) and the mixture was cooled to 0° C. under argon. A solution of acetaldehyde (3.0 mL, 53.4 mmol) in dry toluene (10 mL) was added dropwise over 15 min, the solution was stirred at 0° C. for 5 min and then at room temperature for 1 h. The reaction mixture was stored overnight in the freezer, then it was warmed to room temperature and filtered. The filtrate was concentrated to give a brown oil, with some water present. Toluene was added and the solution was dried (sodium sulfate), filtered and evaporated to give N-(2,4-difluoro-phenyl)-N-ethylidene-hydrazine (4.61 g, 84%) as a brown oil as a mixture of E and Z isomers (by 1H NMR).

reactant | 2,4-Difluorophenylhydrazine hydrochloride | 32.3 mmol, 6.00 g | Cl.FC1=C(C=CC(=C1)F)NN
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2,4-difluorophenylhydrazine | 4.54 g, 98% | FC1=C(C=CC(=C1)F)NN | C6H6F2N2
